US07319109B2
a) 2-Chloro-4{[3(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}aniline.
A mixture of 4-amino-3-chlorophenol (1.14 g, 7.9 mmol), triphenylphosphine (2.08 g, 7.9 mmol), [3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methanol (2.27 g, 7.9 mmol) in dichloromethane (20 mL) was treated with diisopropylazidodicarboxylate (1.57 mL, 7.9 mmol) dropwise. After stirring at ambient temperature for 16 h, the material was chromatographed on silica gel eluting with dichloromethane. Yield=1.73 g (53%) of 2-chloro-4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}aniline.

reactant | 4-amino-3-chlorophenol | 7.9 mmol, 1.14 g | NC1=C(C=C(C=C1)O)Cl | C6H6ClNO
reactant | triphenylphosphine | 7.9 mmol, 2.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | [3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methanol | 7.9 mmol, 2.27 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CO)C(C)C | C13H13Cl2NO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-Chloro-4{[3(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}aniline | ClC1=C(N)C=CC(=C1)OCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C19H17Cl3N2O2
